* source APPENDIX B-PS.13
M_M1         OUT IN VDD VDD PMOS0P5  
+ L=0.5u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={MP}
C_C10         0 OUT  {CL}  
V_Vsupply         VDD 0 {VDD}
V_Vin         IN 0  
+PULSE 0 {VDD} 2n 1p 1p 6n 12n
M_M2         OUT IN 0 0 NMOS0P5  
+ L=0.5u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={MN}
.PARAM  MN=1 VDD=3.3 MP=1 CL=0.5p
